US07071182B2
3-bromo-6-nitro-1-(2-pyrrolidin-1-yl-ethyl)-1H-indazole
A mixture of 3-bromo-6-nitro-1H-indazole (1.0 g, 4.1 mmol) and potassium carbonate (2.9 g 21 mmol) in DMF (20 mL) was stirred for 30 minutes after which 1-(2-chloro-ethyl)-pyrrolidine (1.8 g, 10 mmol) was added. The mixture was heated to 50° C. for 6 hours, cooled to room temperature and filtered through a plug of silica gel which was rinsed with triethylamine/ethyl acetate (1/4). The filtrate was concentrated under reduced pressure and purified by flash chromatography (silica gel, triethylamine/ethyl acetate 1/30) to provide the title compound (900 mg, 64%). 1H NMR (300 MHz, DMSO-d6) ppm 1.61 (m, 4H), 2.47 (m, 4H), 2.90 (t, 2H, J=6.44), 4.69 (t, J=6.44, 2H), 7.82 (m, 1H), 8.02 (m, 1H), 8.86 (m, 1H); MS (DCI/NH3) m/z 339 [M+H]+.

reactant | 3-bromo-6-nitro-1H-indazole | 4.1 mmol, 1.0 g | BrC1=NNC2=CC(=CC=C12)[N+](=O)[O-] | C7H4BrN3O2
reactant | potassium carbonate | 21 mmol, 2.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2-chloro-ethyl)-pyrrolidine | 10 mmol, 1.8 g | ClCCN1CCCC1 | C6H12ClN
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-bromo-6-nitro-1-(2-pyrrolidin-1-yl-ethyl)-1H-indazole | 900 mg, 64% | BrC1=NN(C2=CC(=CC=C12)[N+](=O)[O-])CCN1CCCC1 | C13H15BrN4O2
